US08497376B2
4-Cyano-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide sodium salt (Form A)
To a suspension of 4-cyano-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide (23.1 mg, 0.0500 mmol), as prepared in Example 15, in ethanol (1.0 mL) was added a solution of sodium hydroxide (1.0N; 0.055 mL; 0.055 mmol). The solution was allowed to evaporate in an open vial at room temperature. A white crystalline solid resulted and was characterized by PXRD and TGA (6.1% loss of mass). The PXRD of Form A of the sodium salt is shown in FIG. 2 and the prominent peaks provided in the table below.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide | 0.0500 mmol, 23.1 mg | CC1(CC=C(CC1)C1=NC(=CC=C1NC(=O)C=1NC=C(N1)C#N)C1CC(OC(C1)(C)C)(C)C)C | C27H35N5O2
reactant | sodium hydroxide | 0.055 mmol, 1.0N, 0.055 mL | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 4-Cyano-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide sodium salt | [Na].CC1(CC=C(CC1)C1=NC(=CC=C1NC(=O)C=1NC=C(N1)C#N)C1CC(OC(C1)(C)C)(C)C)C | InChI=1S/C27H35N5O2.Na/c1-25(2)11-9-17(10-12-25)22-21(32-24(33)23-29-16-19(15-28)30-23)8-7-20(31-22)18-13-26(3,4)34-27(5,6)14-18;/h7-9,16,18H,10-14H2,1-6H3,(H,29,30)(H,32,33);
